Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain, SOB
 
Major Surgical or Invasive Procedure:
Right heart catheterization
Coronary angiography

 
History of Present Illness:
The patient is a ___ male with PMHx of hypertension, 
hyperlipidemia, gout, potential sleep apnea who presents to the 
ED with substernal chest pain that moves in a diagonal direction 
toward his left shoulder with one episode of noted left jaw pain 
and numbness in the left arm. He has had persistent dyspnea on 
exertion and intermittent left-sided sharp chest pain for the 
last 3 days. Denies pleuritic component, has had a cough for the 
last week, no fevers or chills. Was seen at urgent care where he 
received full aspirin, nitroglycerin in route prior to arrival 
given EKG changes from previous with now anterior TWIs. 
Currently describes chest tightness trending toward pain and no 
SOB at rest but endorses with movement. Negative ROS for 
orthopnea, PND, N/V, changes in BM or urination, does endorse 
difficulty climbing stairs for several days.
 
Past Medical History:
Hypertension, hyperlipidemia, gout, potential sleep apnea (never 
got sleep study, does not seem amenable to CPAP), 
musculoskeletal pain at knees.
 
Social History:
___
Family History:
Father with significant cardiac history.
 
Physical Exam:
ADMISSION
VS: T= 98.5 BP= 119/85 HR= 78  RR= 16 O2 sat= 99 on 2 L  
GENERAL: WDWN male in NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple with JVP of 8 cm.  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or 
S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominal bruits.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.

DISCHARGE
Vitals: Tmax 98.5 BP 108/65-122/79 P ___ R 18 SaO2 98% RA
Tele: no events
Last 24 hours I/O: 1050/1100+
GENERAL: NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclerae anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa.   
NECK: Supple with JVP of 8 cm.  
CARDIAC: RRR, normal S1, S2. No m/r/g. No S3 or S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. +BS
EXTREMITIES: No c/c/e. No erythema of the left great toe, able 
to move, not TTP  
SKIN: No stasis dermatitis, ulcers, scars. 
 
Pertinent Results:
ADMISSION
___ 12:30PM BLOOD WBC-9.9 RBC-5.20 Hgb-15.6 Hct-44.5 MCV-86 
MCH-30.0 MCHC-35.0 RDW-13.5 Plt ___
___ 12:30PM BLOOD ___ PTT-31.8 ___
___ 12:30PM BLOOD Plt ___
___ 12:30PM BLOOD Glucose-119* UreaN-19 Creat-1.2 Na-141 
K-4.5 Cl-105 HCO3-25 AnGap-16
___ 07:23PM BLOOD CK(CPK)-47
___ 12:30PM BLOOD cTropnT-<0.01 proBNP-1199*
___ 05:00AM BLOOD Calcium-9.3 Phos-3.9 Mg-2.5

INTERVAL
___ 05:00AM BLOOD ___
___ 06:03AM BLOOD ALT-45* AST-48* LD(LDH)-301* AlkPhos-62 
TotBili-0.5
___ 03:35PM URINE Color-Straw Appear-Clear Sp ___
___ 03:35PM URINE Blood-TR Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-NEG
___ 03:35PM URINE RBC-1 WBC-0 Bacteri-NONE Yeast-NONE Epi-0
___ 03:35PM URINE Mucous-RARE

DISCHARGE
___ 06:43AM BLOOD WBC-5.8 RBC-4.71 Hgb-14.3 Hct-40.8 MCV-87 
MCH-30.4 MCHC-35.0 RDW-13.2 Plt ___
___ 06:43AM BLOOD Glucose-148* UreaN-15 Creat-1.0 Na-138 
K-4.5 Cl-100 HCO3-29 AnGap-14
___ 06:43AM BLOOD Calcium-9.7 Phos-3.2 Mg-2.1

STUDIES

___ ECHO
IMPRESSION: Normal left ventricular cavity size with regional 
systolic dysfunction c/w CAD (PDA distribution). Right 
ventricular cavity dilation with hypokinesis of the basal ___ 
of the free wall.
This constellation of findings is suggestive of CAD (proximal 
RCA distribution) or focal myocarditis.

___ RIGHT AND LEFT CATH
 1. Normal coronary arteries.
 2. Normal right sided pressures with preserved CI.

___ CTA CHEST
IMPRESSION: 
1.  Large saddle emboli in both right and left pulmonary 
arteries, extending into the lobar branches. Imaging evidence of 
right heart strain with bowing of the interventricular septum 
toward the left. No pulmonary infarction.
 
2.  Left upper lobe nodular lesion measuring 9 mm. This may be 
infectious or inflammatory in nature, but recommend 3 month 
chest CT followup to ensure that this resolves.

___ BILAT LOWER EXTREMITY U/S
No DVT.

___ CT ABD/PELVIS 
IMPRESSION:
1. No evidence of malignancy in the abdomen or pelvis. However, 
routine CT is not sensitive for detecting colon cancer.
2. Pulmonary emboli still present in the imaged segmental 
branches of the
lower lobe arteries.
3. Diverticulosis without evidence of diverticulitis.
 
Brief Hospital Course:
BRIEF SUMMARY
=============
___ y/o M with h/o HTN, HLD, gout, potential OSA with 3 day 
history of malaise, loss of appetite, chest pain, and DOE p/w 
dynamic EKG changes concerning for ACS. Receied cath, which was 
negative, and subsequently had ECHO showing RH strain and CTA 
showing submassive PE.

ACTIVE ISSUES
===============
# SUBMASSIVE PULMONARY EMBOLISM: Patient presented with chest 
pain and dyspnea on exertion. The patient had negative trops x 3 
but elevated proBNP of 1199. He received TTE on ___ AM, which 
showed right ventricular strain with bowing of septum. Cardiac 
catheterization revealed PS systolic pressure of 45 and clean 
coronaries. The patient had Ddimer elevated to ___ and 
subsequent CTA showing bilateral pulmonary embolism. He was 
started on heparin gtt bridge to coumadin. Throughout his 
course, he remained hemodynamically stable. Bilateral ___ 
ultrasounds were negative for DVT. He received CT 
abdomen/pelvis, which showed no evidence of intrabdominal 
malignancy. His INR on discharge was 3.3 and he was discharged 
on 2 mg daily warfarin with follow-up with his PCP for repeat 
check on ___. He was also recommended to have anticoagulation 
work-up (his father has history of PE) and a colonoscopy. 

# RIGHT HEART STRAIN: Last stress test and ECHO were 5+ years 
ago and were reportedly normal. Anterior TWIs originally 
concerning for ACS but found to have PE as above. Due to initial 
concern for ACS, the patient was started on ACS regimen with 
high dose ASA, metoprolol, lisinopril, and high-dose statin. 
However, this was transitioned to home dose of ASA 81 mg, 
decreased atorastatin 20 mg daily, metoprolol succinate 25 mg 
XL, and home lisinopril 10 mg daily. 

CHRONIC ISSUES
==============
# GOUT: Patient has history of gout. He complained of left big 
toe pain consistent with prior gout flares. Given his 
anticoagulation regimen, the patient was instructed to avoid 
naproxen. He was started on colchicine as inpatient and 
discharged on 0.6 mg daily.

# HTN: stable. Patient was continued on home lisinopril 10 mg 
daily. As above, the patient was started on metoprolol succinate 
25 mg XL daily.

# HLD: stable. Patient was started on atorvastatin 80 mg daily 
in the setting of suspected ACS, but this was decreased to 
atorvastatin 20 mg daily at discharge. 

TRANSITIONAL ISSUES
===================
- INR for warfarin dosage adjustments (goal ___. 
Supratherapeutic at 3.3 on day of discharge, being discharged on 
2 mg daily dose (decreased from 10 mg then 5 mg daily to 2 mg). 
Patient being discharged on ___, so could not confirm on day 
of discharge regarding ___ for ___. Attending Dr. 
___ to contact PCP ___. on ___ and patient 
to call PCP ___ ___. 
- Tests as above for hypercoagulable predisposition
- Colonoscopy
- Smokeless tobacco cessation
- Left upper lobe nodular lesion measuring 9 mm. This may be 
infectious or inflammatory in nature, but recommend 3 month 
chest CT followup to ensure that this resolves
- Patient was started on colchicine 0.6 mg for acute gout flare. 
Consider discontinuation of this medication once acute episode 
resolves.

# CODE: FULL 
# CONTACT: wife ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
2. Oxycodone-Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN pain 
3. Naproxen 500 mg PO Q8H:PRN pain 
4. Zolpidem Tartrate 10 mg PO QHS 
5. Simvastatin 20 mg PO QPM 
6. Aspirin 81 mg PO DAILY 
7. Lisinopril 10 mg PO DAILY 
8. Atenolol 50 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Lisinopril 10 mg PO DAILY 
3. Colchicine 0.6 mg PO DAILY 
Please use instead of naproxen for gout. 
RX *colchicine [Colcrys] 0.6 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0
4. Warfarin 2 mg PO DAILY16 
RX *warfarin 2 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
5. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
6. Oxycodone-Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN pain 
7. Zolpidem Tartrate 10 mg PO QHS 
8. Atorvastatin 20 mg PO QPM 
RX *atorvastatin 20 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
9. Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary
1. Pulmonary embolism, sub-massive

Secondary
1. Gout

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

It was our pleasure taking care of you at ___ 
___. You were admitted to the hospital with chest 
pain and shortness of breath. You were diagnosed with a blood 
clot in your lungs after undergoing coronary angiography (or 
cath) that revealed clean coronary arteries. You were started on 
blood thinners to treat the clots and will remain on blood 
thinning medication warfarin as an outpatient.

It is important that you follow up with your primary doctor and 
also with the ___ clinic to make any necessary dose 
changes based on your lab values.  You will need your labs 
checked on ___ so please call your PCP ___ ___ morning to 
have this scheduled. 

Best wishes,
Your ___ Healthcare Team
 
Followup Instructions:
___